US04794188
2-[3-(1-Hydroxyethyl)phenoxymethyl]quinoline
A mixture of 3-(1-hydroxyethyl)phenol (7 g), 2-chloromethylquinoline (9 g), potassium carbonate (7 g) and potassium iodide (0.3 g) in acetone (75 ml) was refluxed overnight. The reaction mixture was poured into water, and then thoroughly extracted with ethyl acetate (3×30 ml). The organic extract was washed with NaOH solution (1N), water, brine, and then dried over MgSO4. All volatiles were removed to obtain a dark brown liquid, which was chromatographed on silica gel (12% ethyl acetate in hexanes) to leave the desired product as a light yellow liquid.

reactant | 3-(1-hydroxyethyl)phenol | 7 g | OC(C)C=1C=C(C=CC1)O | C8H10O2
reactant | 2-chloromethylquinoline | 9 g | ClCC1=NC2=CC=CC=C2C=C1 | C10H8ClN
reactant | potassium carbonate | 7 g | C([O-])([O-])=O.[K+].[K+]
reactant | potassium iodide | 0.3 g | [I-].[K+]
solvent | acetone | 75 ml | CC(=O)C | C3H6O
solvent | water | O | H2O
product | 2-[3-(1-Hydroxyethyl)phenoxymethyl]quinoline | OC(C)C=1C=C(OCC2=NC3=CC=CC=C3C=C2)C=CC1 | C18H17NO2
